US07994185B2
N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 51, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (250 mg, 0.440 mmol) and ammonia in MeOH 7M (7 ml, 49.0 mmol) the title compound was obtained as a yellow solid (187 mg, 72% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.82 (br. s., 1H), 7.78 (d, J=5.3 Hz, 1H), 7.55-7.71 (m, 1H), 7.31-7.43 (m, 1H), 7.10-7.30 (m, 4H), 6.52 (s, 2H), 5.59 (d, J=5.2 Hz, 1H), 3.66 (t, J=4.3 Hz, 4H), 3.40 (d, J=4.5 Hz, 4H). MS (ESI): 549.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.440 mmol, 250 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H17ClF3N5O3S2
reactant | ammonia | N | H3N
reactant | MeOH | 49.0 mmol, 7M, 7 ml | CO | CH4O
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H19F3N6O3S2
